US07019026B1
To a solution of 2-amino-7-aminomethyl-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester (100 mg, 0.38 mmol) and N,N-diisopropylethylamine (72 μL, 0.41 mmol) in acetonitrile (6 ml) at 0° C. was added 2-bromomethyl-benzoic acid methyl ester (43 mg, 0.19 mmol). The reaction mixture was stirred for 16 hours and the solvent evaporated in vacuo. The residue was diluted in ethyl acetate (50 ml), washed with 1N hydrochloric acid, saturated sodium bicarbonate, brine, dried (MgSO4), filtered and the solvent evaporated in vacuo, which afforded 50 mg (68%) of 2-amino-7-(1-oxo-1,3-dihydro-isoindol-2-ylmethyl)-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester as an oil.

reactant | 2-amino-7-aminomethyl-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester | 0.38 mmol, 100 mg | C(C)(C)(C)OC(=O)C1=C(SC=2C(OCCC21)CN)N | C13H20N2O3S
reactant | N,N-diisopropylethylamine | 0.41 mmol, 72 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-bromomethyl-benzoic acid methyl ester | 0.19 mmol, 43 mg | COC(C1=C(C=CC=C1)CBr)=O | C9H9BrO2
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | 2-amino-7-(1-oxo-1,3-dihydro-isoindol-2-ylmethyl)-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester | 50 mg, 68% | C(C)(C)(C)OC(=O)C1=C(SC=2C(OCCC21)CN2C(C1=CC=CC=C1C2)=O)N | C21H24N2O4S
